US07442558B2
10.1 Synthesis of 10-Amino-4-oxo-5-aza-decanoic acid, 16
To a solution of 1,5-pentanediamine (2.5 g, 24 mmol) in dry methanol (20 mL), a solution of succinic acid anhydride (2 g, 20 mmol) in dry methylene chloride (20 mL) was added dropwise in 2 hrs, the product was precipitated as white solid and collected by filtration. Yield 80 %. 1H NMR (500 MHz, D2O, 25° C.) δ 1.280 (quint., J=7.5, 2H, CH2), 1.449 (quint., J=7.5, 2H, CH2), 1.577 (quint., J=7.5, 2H, CH2), 2.337 (s, 4H, CH2), 2.886 (t, J=7.5, 2H, CH2), 3.072 (t, J=7.5, 2H, CH2). 13C NMR (500 MHz, D2O, 25° C.) δ 22.73, 26.22, 27.66, 32.34, 33.13, 38.76, 39.37, 175.72, 180.90.

reactant | 1,5-pentanediamine | 24 mmol, 2.5 g | C(CCCCN)N | C5H14N2
reactant | succinic acid anhydride | 20 mmol, 2 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | methanol | 20 mL | CO | CH4O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 10-Amino-4-oxo-5-aza-decanoic acid | Yield 80 % | NCCCCCNC(CCC(=O)O)=O | C9H18N2O3
